US05053422
A) Isobutyl (4 S)-4-benzyl-5-oxo-2-imidazolidinepropanoate
To a solution of L-phenylalaninamide hydrochloride (20 g, 0.1 mol) in water (200 ml), adjusted to pH 8.2 with 10% sodium hydroxide (about 35 ml), was added isobutyl 4-oxobutanoate (16 g, 0.1 mol). The solution was refluxed for 24 hours After cooling, the solution was extracted with dichloromethane (4×200 ml). The organic phase was dried and evaporated to dryness under vacuum. The residue was chromatographed over silica gel (dichloromethanemethanol 9:1) to afford 6 g (20%) of the title compound, as an oil, which was characterized as the hydrochloride, m.p. 152°-155° C. (with decomposition) (after crystallization from ethanol-diethyl ether). NMR (DMSO-d6, CDCl13): deltaH =9.25 (b.s., 1H, CONH); 7.6-7.1 (c.a., 5H, PhH), 4.90 (t, J=6.1 Hz, 1H, NHCHNH); 4.17 (t, J=6.1 Hz, 1H, CHCH2Ph); 3.84 (d, J=6.9 Hz, 2H, COOCH2CH); 3.35 (c.a., 2H, CH2Ph); 2.50-1.60 (c.a., 5H, CH2CH2COO, CH2CH(CH3)2. MS (E.I., 70 eV, 1.5 mA) m/z=304 (M+), 213 (M--C7H7)+, 84 (C3H4N2O)+.

reactant | L-phenylalaninamide hydrochloride | 0.1 mol, 20 g | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N
reactant | sodium hydroxide | about 35 ml | [OH-].[Na+]
reactant | isobutyl 4-oxobutanoate | 0.1 mol, 16 g | O=CCCC(=O)OCC(C)C | C8H14O3
solvent | water | 200 ml | O | H2O
product | Isobutyl (4 S)-4-benzyl-5-oxo-2-imidazolidinepropanoate | 6 g, 20% | C(C1=CC=CC=C1)[C@@H]1NC(NC1=O)CCC(=O)OCC(C)C | C17H24N2O3
